Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
worsening mental status
 
Major Surgical or Invasive Procedure:
Hemiarthroplasty.  ___
 
History of Present Illness:
___ is a ___ female with history of advanced
Alzheimer's dementia who presents after a witnessed fall. She 
did
strike her head, it is unclear if she lost consciousness. She
appears more confused than usual per report. Patient is unable 
to
provide history at this time given her mental status.
 
Past Medical History:
- glaucoma
- Alzheimer's dementia 
- hypertension
- cataracts (bilateral)
- anemia, unspecified
- OA of bilateral knees
- renal artery atherosclerosis 
- vitamin D deficiency
- oropharyngeal dysphagia, managed on soft diet 
 
Social History:
___
Family History:
FAMILY HISTORY: Not discussed. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
VS: Temp: 97.7 (Tm 97.7), BP: 109/66, HR: 105, RR: 20, O2 sat:
93%, O2 delivery: Ra  
GENERAL: Thin, well-groomed, confused, pulling at gown and not
answering questions, tracks w eyes
HEENT: sclera anicteric, L pupil irregularly shaped, R pupil
round 2mm and reactive, MMM
CV/PULM: did not allow for exam (became agitated and pushed me
away, after I had examined abdomen) 
ABDOMEN: Soft, wincing to palpation over suprapubic area, +BS  
EXTREMITIES: wwp, no edema 
NEURO: alert, not oriented in any manner, pupils as above
otherwise face symmetric, moving all limbs antigravity, trying 
to
get out of bed when I walked in 

DISCHARGE PHYSICAL EXAM
========================
24 HR Data (last updated ___ @ 923)
    Temp: 97.9 (Tm 98.3), BP: 144/73 (106-144/63-73), HR: 69
(69-81), RR: 18, O2 sat: 98% (93-98), O2 delivery: Ra    

GENERAL: Thin, well-groomed, confuse
HEENT: sclera anicteric, L pupil irregularly shaped, R pupil
round 2mm and reactive, MMM
CV: soft II/VI systolic murmur at LUSB, regular rate, 
JVP~10-11cm
LUNGS: normal WOB on 3L, anterior lung fields clear but could 
not
assess posterior fields due to hip pain from moving 
ABDOMEN: Soft, not distended, non tender
EXTREMITIES: wwp, no edema, right hip dressing
NEURO: alert, oriented to self, pupils as above otherwise face
symmetric, moving all limbs antigravity

 
Pertinent Results:
ADMISSION LABS
===============

___ 05:10AM BLOOD WBC-12.8* RBC-3.71* Hgb-11.1* Hct-33.9* 
MCV-91 MCH-29.9 MCHC-32.7 RDW-14.3 RDWSD-47.6* Plt ___
___ 03:39PM BLOOD WBC-14.3* RBC-4.16 Hgb-12.4 Hct-38.2 
MCV-92 MCH-29.8 MCHC-32.5 RDW-14.0 RDWSD-47.8* Plt ___
___ 03:39PM BLOOD Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD ___ PTT-26.7 ___
___ 05:10AM BLOOD Plt ___
___ 03:39PM BLOOD Glucose-110* UreaN-24* Creat-1.1 Na-143 
K-4.9 Cl-102 HCO3-25 AnGap-16
___ 05:10AM BLOOD Glucose-112* UreaN-24* Creat-1.1 Na-143 
K-3.9 Cl-104 HCO3-25 AnGap-14
___ 05:10AM BLOOD Glucose-102* UreaN-23* Creat-0.9 Na-142 
K-4.0 Cl-106 HCO3-24 AnGap-12
___ 03:39PM BLOOD ALT-22 AST-29 AlkPhos-76 TotBili-1.3
___ 03:39PM BLOOD Albumin-4.3
___ 05:10AM BLOOD Calcium-9.0 Phos-2.7 Mg-1.9
___ 05:43AM BLOOD Calcium-8.3* Phos-4.1 Mg-1.8
___ 04:22PM BLOOD Lactate-2.4*

DISCHARGE LABS
=================

___ 06:17AM BLOOD WBC-8.6 RBC-3.42* Hgb-10.0* Hct-31.6* 
MCV-92 MCH-29.2 MCHC-31.6* RDW-15.1 RDWSD-51.1* Plt ___
___ 06:17AM BLOOD Plt ___
___ 06:26AM BLOOD Plt ___
___ 06:17AM BLOOD Glucose-97 UreaN-27* Creat-0.8 Na-144 
K-4.4 Cl-106 HCO3-26 AnGap-12
___ 06:26AM BLOOD Glucose-97 UreaN-32* Creat-0.9 Na-145 
K-4.4 Cl-109* HCO3-23 AnGap-13
___ 06:42AM BLOOD ALT-8 AST-14 LD(LDH)-207 AlkPhos-55 
TotBili-1.2
___ 06:17AM BLOOD Calcium-8.3* Phos-2.6* Mg-2.6
___ 06:42AM BLOOD Hapto-272*

CXR
====
Mild pulmonary vascular congestion and bibasilar atelectasis.  
No displaced 
rib fracture, though chest radiographs are insensitive for 
detection of a rib 
fracture. 

CT C-SPINE
===========
 
IMPRESSION: 
  
  
1. No acute fracture or prevertebral soft tissue swelling. 
2. Mild to moderate cervical spondylosis.  Multilevel mild C3 on 
C4, C4 on C5 
and T1 and T2 anterolisthesis is likely degenerative in 
etiology. 
3. 1.7 cm nodule is seen in the right lobe of the thyroid.  If 
clinically 
indicated, this can be further assessed with dedicated thyroid 
ultrasound if 
not done previously; see recommendation below. 
  
RECOMMENDATION(S):  Thyroid nodule.  Ultrasound follow up 
recommended. 
___ of Radiology guidelines recommend further 
evaluation for 
incidental thyroid nodules of 1.0 cm or larger in patients under 
age ___ or 1.5 
cm in patients age ___ or ___, or with suspicious findings. 
  
Suspicious findings include: Abnormal lymph nodes (those 
displaying 
enlargement, calcification, cystic components and/or increased 
enhancement) or 
invasion of local tissues by the thyroid nodule. 

CT HEAD
=======
 
IMPRESSION: 
  
  
1. No acute intracranial abnormality. 
2. Involutional and chronic small vessel ischemic changes. 

R HIP
======
IMPRESSION:  
  
Impacted and mildly medially displaced right femoral neck 
fracture with slight 
varus angulation.  No dislocation. 
  
NOTIFICATION:   The findings were discussed by Dr. ___ 
with Dr. 
___ on the telephone on ___ at 4:53 pm. 

CTA HIP
========
  
IMPRESSION:  
  
Postoperative changes along the right hip, but no evidence for 
hematoma or 
active contrast extravasation. 
  

  

 
Brief Hospital Course:
HOSPITAL COURSE
--------------------
___ woman with hx dementia presented to the ED after a 
mechanical fall, treated for a Klebsiella UTI with 3 days of 
ceftriaxone, found to have an impacted and mildly medially 
displaced right femoral neck fracture s/p R hemiarthoplasty 
___, with course complicated by intermittent hypoxia likely in 
setting of atelectasis/mucous plugging.

TRANSITIONAL ISSUES
--------------------
[ ] Monitor Hg in 1 week ___ (had downtrending Hg in setting of 
hemodilution and arthroplasty, required one unit of pRBCs, 
discharge Hg 10.0 on ___
[ ] Started on lovenox for prophylaxis in setting of 
arthroplasty, discontinue in month ___, monitor for any 
signs of bleeding 
[ ] follow up with orthopedics on ___ 
[ ] Has R lobe thyroid nodule seen on CT, ultrasound follow-up 
recommended if within ___
[ ] WOUND CARE: 
 - You may shower. No baths or swimming for at least 4 weeks. 
 - Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment. 
 - Incision may be left open to air unless actively draining. If 
draining, you may apply a gauze dressing secured with paper 
tape. 

ACTIVE ISSUES: 
# Right femoral neck fracture s/p R hemiarthroplasty ___
Patient found to have right femoral head fracture ___ fall at 
nursing facility. s/p R hemiarthroplasty ___ w/o complications. 
Her pain was managed with scheduled tylenol. She was started on 
lovenox 40qHS for DVT prophylaxis for one month. End date 
___.

# Intermittent hypoxia
Pt with 2 episodes of hypoxia to the ___, with swift recovery to 
room air. First episode occurred in the immediate post-op 
period, at which point a CXR was repeated that did not show 
worsening pulmonary congestion or PNA. Second episode occurred 
overnight and resolved without specific intervention. These 
episodes were determined to likely be ___ mucus plugging vs mild 
chronic aspiration vs atelectasis. There was low concern for 
pulmonary edema given CXRs and euvolemia on exam. At the time of 
discharge, the patient was back on Room Air for > 48 hours.

# Anemia
Came in with Hg 12.4 and downtrended over the first several days 
of her hospitalization, with nadir at 7.6. This likely occurred 
in the setting of hemodilution, followed by bleeding from her 
arthroplasty. She had a normal abdominal/pelvis CT, ordered 
given concern for possible intraabdominal/retroperitoneal 
bleeding from her fall and her inability to express pain due to 
dementia. She received one unit of pRBCs per ortho protocol to 
transfuse for Hg<8 in elderly. Hg responded appropriately, 
discharge Hg 10. 

# Fall
# AMS at dementia baseline, resolved
Per ED collateral, baseline mental status worsened as she was 
non verbal and had bouts of aggressiveness. This was attributed 
to her UTI, treated as below. A non-con CT head was performed in 
the ED and was unremarkable. Her mental status returned to her 
normal baseline during hospitalization. 

# Klebsiella UTI
# leukocytosis, resolved
# lactic acidosis, resolved
Pt has a leukocytosis to 14 on admission and slightly elevated 
lactate with tachycardia, all of which resolved with IV fluids 
and abx therapy. urine culture grew Klebsiella and she was 
treated with IV ceftriaxone for 3 days. Discharge wbc 8.6. 

# CKD 3
Per review ___ labs, pt with baseline Cr 0.9-1.1. She is at 
her baseline. She was discharged with a Cr 0.8.

# Thyroid nodule, right lobe
Visualized on CT Spine with normal TSH. Ultrasound follow-up 
recommended if within ___

CHRONIC ISSUES: 
# Dementia - alzheimers per hx, continued home memantine 10mg 
BID and performed delirium precautions

# Oropharyngeal phase dysphagia - on soft diet per instructions 
from nursing home. on aspiration precautions

# Glaucoma - continued home eye drops per formulary

#CODE STATUS: Confirm DNR/DNI? 
#CONTACT: ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
2. Combigan (brimonidine-timolol) 0.2-0.5 % left eye Q12H 
3. Bisacodyl 10 mg PR QHS:PRN Constipation - Third Line 
4. difluprednate 0.05 % left eye QPM 
5. sodium phosphates ___ gram/118 mL rectal DAILY:PRN 
6. Ferrous Sulfate 325 mg PO DAILY 
7. fluorometholone 0.25 % left eye DAILY 
8. guaiFENesin 200 mg/5 mL oral Q6H:PRN cough 
9. Memantine 10 mg PO BID 
10. Milk of Magnesia 30 mL PO Q6H:PRN Constipation - First Line 
11. Naloxone 0.4 mg IM ONCE MR1:PRN opioid overdose 
12. Senna 17.2 mg PO QHS 
13. Timolol Maleate 0.5% 1 DROP RIGHT EYE BID 
14. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC QPM  
2.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
3.  Bisacodyl 10 mg PR QHS:PRN Constipation - Third Line  
4.  Combigan (brimonidine-timolol) 0.2-0.5 % left eye Q12H  
5.  difluprednate 0.05 % left eye QPM  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  fluorometholone 0.25 % left eye DAILY  
8.  guaiFENesin 200 mg/5 mL oral Q6H:PRN cough  
9.  Memantine 10 mg PO BID  
10.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation - First Line 
 
11.  Naloxone 0.4 mg IM ONCE MR1:PRN opioid overdose  
12.  Senna 17.2 mg PO QHS  
13.  sodium phosphates ___ gram/118 mL rectal DAILY:PRN  
14.  Timolol Maleate 0.5% 1 DROP RIGHT EYE BID  
15.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
urinary tract infection
right femoral neck fracture 

SECONDARY DIAGNOSIS
dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,  
 
___ was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted after you had a fall at your nursing 
facility   
 
What was done for me while I was in the hospital?  
- You were found to have a bladder infection, which was treated 
with IV antibiotics 
- You were found have a fracture of your right hip, for which 
you had surgery to repair it
- You had CT scans of your head and abdomen that did not show 
any signs of bleeding from your fall
- You were started on lovenox injections to prevent blood clots 
after your hip surgery, which you will continue for one month 
until ___.

What should I do when I leave the hospital?  
- You should continue doing physical therapy 
- Resume your regular activities as tolerated, and use Tylenol 
(650mg every six hours as needed) to manage any pain from the 
hip surgery 
- You should take all your medications as prescribed
- You should go to your appointments listed below  
WOUND CARE: 
 - You may shower. No baths or swimming for at least 4 weeks. 
 - Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment. 
 - Incision may be left open to air unless actively draining. If 
draining, you may apply a gauze dressing secured with paper 
tape. 

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___